US07417040B2
To a mixture of 8-Bromo-2-chloro-5H,11H-dibenzo[b,f]azocine-6-12-dione (2.0 g, 5.7 mmole) in THF (20 mL) was added a 2.0M solution of BH3.DMS in THF (6.9 mL, 14.3 mmole). The reaction mixture was heated to 70° C. for 6 hours. The reaction was quenched by slow addition of methanol and stirred at room temperature for 40 minutes. The residue obtained after concentration was triturated with methanol, filtered and dried in vacuo to give 8-Bromo-2-chloro-5,6,11,12-tetrahydro-dibenzo[b,f]azocine-12-ol (0.85 g, 44%). HPLC Rt=3.31 min. m/z=338 (M+H+).

reactant | 8-Bromo-2-chloro-5H,11H-dibenzo[b,f]azocine-6-12-dione | 5.7 mmole, 2.0 g | BrC1=CC2=C(CC(C3=C(NC2=O)C=CC(=C3)Cl)=O)C=C1 | C15H9BrClNO2
reactant | DMS | CSC | C2H6S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 14.3 mmole, 6.9 mL | C1CCOC1 | C4H8O
product | 8-Bromo-2-chloro-5,6,11,12-tetrahydro-dibenzo[b,f]azocine-12-ol | 0.85 g, 44% | BrC1=CC2=C(CC(C3=C(NC2)C=CC(=C3)Cl)O)C=C1 | C15H13BrClNO
